US04099002
To a solution of 3.1 g. of 1-cyclopropylmethyl-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone in 50 ml. of dimethylformamide was added 0.42 g. of 63% sodium hydride, and the resulting mixture was stirred at 50° C. for 30 minutes. Thereafter, 2.7 g. of β-diethylaminoethyl chloride was added, and the mixture was stirred at 100° C. for 8 hours. After cooling, the reaction mixture was poured into 300 ml. of water, and ammonia water was added thereto to make alkaline. The resulting mixture was extracted with benzene. The benzene layer was washed with water and dried, and then the solvent was removed under reduced pressure. The residue was dissolved in 50 ml. of ether, and the insoluble material were separated by filtration. The filtrate was extracted with 50 ml. of 5% hydrochloric acid, and the water layer was further washed with ether, made alkaline by addition of ammonia water and then extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate, and then the solvent was removed to obtain oily 1-cyclopropylmethyl-3-(β-diethylaminoethyl)-3,4-dihydro-4-phenyl-6-chloro-2(1H)-quinazolinone.

reactant | 1-cyclopropylmethyl-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinone | C1(CC1)CN1C(NC(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=O | C18H17ClN2O
reactant | sodium hydride | [H-].[Na+]
reactant | β-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
reactant | ammonia water | O.N
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-cyclopropylmethyl-3-(β-diethylaminoethyl)-3,4-dihydro-4-phenyl-6-chloro-2(1H)-quinazolinone | C1(CC1)CN1C(N(C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)CCN(CC)CC)=O | C24H30ClN3O
